* NGSPICE file created from inverter_pex.ext - technology: ihp-sg13g2

.subckt inverter_pex VDD vin vout VSS
X0 VSS.t18 vin vout VSS.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X1 VSS.t36 VSS.t34 VSS.t30 VSS.t35 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
X2 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X3 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X4 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X5 vout vin VSS.t15 VSS.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X6 vout vin VSS.t1 VSS.t0 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VSS.t1 VSS.t31 VSS.t33 VSS.t32 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X9 VSS.t24 vin vout VSS.t23 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 vout vin VSS.t21 VSS.t22 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X11 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X12 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X13 VSS.t9 vin vout VSS.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X14 VSS.t30 vin vout VSS.t29 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X15 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X18 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X19 VSS.t15 vin vout VSS.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X20 vout vin VSS.t27 VSS.t28 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X21 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X22 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X23 VDD VDD VDD VDD sg13_lv_pmos ad=2.04p pd=12.68u as=0.14199n ps=0.28418m w=6u l=1u
X24 vout vin VSS.t6 VSS.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X25 VSS.t21 vin vout VSS.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X26 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X27 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X28 VSS.t6 vin vout VSS.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X30 VSS.t27 vin vout VSS.t26 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X31 VSS.t3 vin vout VSS.t2 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X32 vout vin VSS.t12 VSS.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X33 vout vin VSS.t3 VSS.t4 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 vout vin VSS.t24 VSS.t25 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X35 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X36 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X37 VSS.t12 vin vout VSS.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X38 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X39 VDD VDD VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X40 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X41 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X42 vout vin VSS.t9 VSS.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X43 vout vin VSS.t18 VSS.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
C0 vout vin 15.6916f
C1 VDD vout 8.86472f
C2 VDD vin 25.795f
R0 VSS.t26 VSS.n3 33.0466
R1 VSS.t25 VSS.n3 39.0517
R2 VSS.t16 VSS.n3 49.8729
R3 VSS.t28 VSS.n3 25.8408
R4 VSS.t20 VSS.n3 49.86
R5 VSS.t22 VSS.n3 47.4578
R6 VSS.n3 VSS.t14 49.8523
R7 VSS.t13 VSS.n3 51.0604
R8 VSS.t10 VSS.n3 49.8593
R9 VSS.t8 VSS.n3 47.4581
R10 VSS.t7 VSS.n3 43.8548
R11 VSS.t5 VSS.n3 39.0513
R12 VSS.t4 VSS.n3 33.0467
R13 VSS.t0 VSS.n3 17.4339
R14 VSS.n3 VSS.n1 0.48807
R15 VSS.t34 VSS.n2 0.020283
R16 VSS.n2 VSS.t30 5.65342
R17 VSS.t1 VSS.n5 5.66428
R18 VSS.n5 VSS.n7 0.00966598
R19 VSS.n7 VSS.t33 5.66128
R20 VSS.t17 VSS.n3 51.0603
R21 VSS.t35 VSS.n3 7.82733
R22 VSS.n3 VSS.t32 7.82751
R23 VSS.n3 VSS.t11 51.0606
R24 VSS.n3 VSS.t19 51.0606
R25 VSS.n3 VSS.t29 17.4347
R26 VSS.n6 VSS.t31 0.019456
R27 VSS.n29 VSS.t3 2.4821
R28 VSS.n30 VSS.t6 2.4821
R29 VSS.n31 VSS.t9 2.4821
R30 VSS.n12 VSS.t12 2.4821
R31 VSS.t18 VSS.n11 2.4821
R32 VSS.n25 VSS.t21 2.4821
R33 VSS.t24 VSS.n26 2.4821
R34 VSS.t27 VSS.n4 2.4821
R35 VSS.n3 VSS.n28 2.09947
R36 VSS.n3 VSS.n23 2.09947
R37 VSS.n3 VSS.n22 2.09947
R38 VSS.n3 VSS.n20 2.09947
R39 VSS.n3 VSS.n9 2.09947
R40 VSS.n3 VSS.n18 2.09947
R41 VSS.n3 VSS.n16 2.09947
R42 VSS.n3 VSS.n14 2.09947
R43 VSS.n29 VSS.n6 1.2163
R44 VSS.t23 VSS.n3 43.8554
R45 VSS.t2 VSS.n3 25.8408
R46 VSS.n1 VSS.n0 0.181323
R47 VSS.t34 VSS.n4 1.21736
R48 VSS.n13 VSS.t3 0.201663
R49 VSS.n15 VSS.t6 0.201663
R50 VSS.n17 VSS.t9 0.201663
R51 VSS.n19 VSS.t12 0.201663
R52 VSS.n21 VSS.t18 0.201663
R53 VSS.t21 VSS.n24 0.201663
R54 VSS.n27 VSS.t24 0.201663
R55 VSS.n0 VSS.t27 0.201663
R56 VSS.n30 VSS.n29 0.16242
R57 VSS.n31 VSS.n30 0.16242
R58 VSS.n12 VSS.n31 0.16242
R59 VSS.n10 VSS.n12 0.16242
R60 VSS.n10 VSS.n11 0.16242
R61 VSS.n25 VSS.n11 0.16242
R62 VSS.n26 VSS.n25 0.16242
R63 VSS.n26 VSS.n4 0.16242
R64 VSS.n13 VSS.n8 0.155604
R65 VSS.n14 VSS.n13 0.0952183
R66 VSS.n16 VSS.n15 0.0927738
R67 VSS.n28 VSS.n0 0.0925656
R68 VSS.n18 VSS.n17 0.0903294
R69 VSS.n20 VSS.t15 0.0903294
R70 VSS.n27 VSS.n23 0.0901212
R71 VSS.n9 VSS.n19 0.0878849
R72 VSS.n22 VSS.n21 0.0878849
R73 VSS.t15 VSS.n9 0.0876767
R74 VSS.n24 VSS.n22 0.0876767
R75 VSS.n24 VSS.n23 0.0854405
R76 VSS.n19 VSS.n18 0.0852323
R77 VSS.n21 VSS.n20 0.0852323
R78 VSS.t34 VSS.n1 0.0433687
R79 VSS.n28 VSS.n27 0.082996
R80 VSS.n17 VSS.n16 0.0827878
R81 VSS.n15 VSS.n14 0.0803434
R82 VSS VSS.n10 0.0682949
R83 VSS.t15 VSS.n10 0.0394179
R84 VSS.t31 VSS.n8 0.074402
R85 VSS.n6 VSS.n5 0.0103979
R86 VSS.n3 VSS.n7 1.29252
R87 VSS.n3 VSS.n8 0.833275
R88 VSS.n2 VSS.t36 5.69995
C3 vout VSS 2.95976f
C4 vin VSS 12.6327f
C5 VDD VSS 2.98893f
.ends
